US06518305B1
(±)-(1S,2S,3R,4R)-2-Amino-3-(acetamidomethyl)-4-(methoxycarbonyl)-cyclopentane-1-carboxylic Acid Hydrochloride
A solution of (±)-(1S,2S,3R,4R)-2-(t-butyloxycarbonylamino)-3-(acetamidomethyl)-4-(methoxycarbonyl)-cyclopentane-1-carboxylic acid (66 mg, 0.18 mmole) in 3 mL of dichloromethane was reacted with trifluoroacetic acid (1.0 mL) for 1 hr, at room temperature. The solution was concentrated in vacuo at 25° C. The crude product was treated with 1 N HCl and concentrated in vacuo to provide the title compound as a white solid.

reactant | (±)-(1S,2S,3R,4R)-2-(t-butyloxycarbonylamino)-3-(acetamidomethyl)-4-(methoxycarbonyl)-cyclopentane-1-carboxylic acid | 0.18 mmole, 66 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](C[C@H]([C@@H]1CNC(C)=O)C(=O)OC)C(=O)O | C16H26N2O7
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (±)-(1S,2S,3R,4R)-2-Amino-3-(acetamidomethyl)-4-(methoxycarbonyl)-cyclopentane-1-carboxylic Acid Hydrochloride | Cl.N[C@@H]1[C@H](C[C@H]([C@@H]1CNC(C)=O)C(=O)OC)C(=O)O | InChI=1S/C11H18N2O5.ClH/c1-5(14)13-4-8-6(11(17)18-2)3-7(9(8)12)10(15)16;/h6-9H,3-4,12H2,1-2H3,(H,13,14)(H,15,16);1H/t6-,7+,8+,9-;/m1./s1
